US06262040B1
1-Cyclopentyl-3-ethyl-1H-indazole-6-carboxylic acid (3,5-dichloro-pyridin-4-yl)-methyl-amide
5.2 mg (0.130 mmol, 1.05 equiv) sodium hybride, 60% oil dispersion, were added to a room temperature solution of 50 mg (0.124 mmol, 1.0 equiv) 1-cyclopentyl-3-ethyl-1H-indazole-6-carboxylic acid (3,5-dichlor-pyridin-4-yl)-amide in 3 mL anhydrous DMF. After 30 min. 7.7 μl (0.124 mmol, 1.0 equiv) iodomethane were added and the mixture stirred at room temperature for 4 h. The reaction mixture was diluted with 50 mL H2O and extracted 2×20 mL ethyl acetate. The ethyl acetate extracts were combined, washed 2×5 mL H2O, 1×5 mL brine, and dried over Na2SO4. Filtration, concentration of filtrate and drying gave a yellow oil, which was purified on a silica gel column (25% ethylacetate/hexanes, flash) to give 27 mg (52%) of a white crystalline solid: mp 118-119° C.; HRMS calcd for C21H22N4OCl3+H: 417.12519. Found: 417.12270.

reactant | sodium | 0.130 mmol, 5.2 mg, 1.05 equiv | [Na] | Na
reactant | 1-cyclopentyl-3-ethyl-1H-indazole-6-carboxylic acid (3,5-dichlor-pyridin-4-yl)-amide | 0.124 mmol, 50 mg, 1.0 equiv | ClC=1C=NC=C(C1NC(=O)C1=CC=C2C(=NN(C2=C1)C1CCCC1)CC)Cl | C20H20Cl2N4O
reactant | iodomethane | 0.124 mmol, 7.7 μl, 1.0 equiv | IC | CH3I
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | H2O | 50 mL | O | H2O
product | 1-Cyclopentyl-3-ethyl-1H-indazole-6-carboxylic acid (3,5-dichloro-pyridin-4-yl)-methyl-amide | 27 mg, 52% | ClC=1C=NC=C(C1N(C(=O)C1=CC=C2C(=NN(C2=C1)C1CCCC1)CC)C)Cl | C21H22Cl2N4O
